US06107329
5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-2-oxo-(1S)-pyridin-3-ylmethyl-ethyl]-amide
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-pyridin-3-yl-propan-1-one dihydrochloride (0.8 mmol) and 5-chloro-1H-indole-2-carboxylic acid (0.7 mmol) were coupled according to Procedure A (0-25° C. reaction temperature) and the product purified by chromatography on silica gel eluted with 1-16% ethanol in dichloromethane. Yield 26 mg, 8%; HPLC (50/50) 5.02 minutes (99%); PBMS 427/429 (MH+, 100%);

reactant | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-pyridin-3-yl-propan-1-one dihydrochloride | 0.8 mmol | Cl.Cl.N[C@H](C(=O)N1CCC(CC1)O)CC=1C=NC=CC1
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.7 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [2-(4-hydroxy-piperidin-1-yl)-2-oxo-(1S)-pyridin-3-ylmethyl-ethyl]-amide | OC1CCN(CC1)C([C@H](CC=1C=NC=CC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C22H23ClN4O3
